US06689886B2
Quinoxaline-2-carboxylic Acid [1-benzyl-2-(tert-butyl-dimethyl-silanyloxy)-4-(4,5-dihydro-oxazol-2-yl)-7-fluoro-7-methyl-octyl]-amide
To a solution of quinoxaline-2-carboxylic acid [1-benzyl-2-(tert-butyl-dimethyl-silanyloxy)-7-fluoro-4-(2-hydroxy-ethylcarbamoyl)-7-methyl-octyl]-amide (100 mg, 0.160 mmol) in methylene chloride (1.5 mL) was added triphenylphosphine (63 mg, 0.240 mmol), hexachloroethane (57 mg, 0.240 mmol), and triethylamine (0.045 mL, 0.320 mmol). The reaction was stirred for 2 hours than chromatographed directly on silica gel to give the title compound (72.5 mg, 75%).

reactant | quinoxaline-2-carboxylic acid [1-benzyl-2-(tert-butyl-dimethyl-silanyloxy)-7-fluoro-4-(2-hydroxy-ethylcarbamoyl)-7-methyl-octyl]-amide | 0.160 mmol, 100 mg | C(C1=CC=CC=C1)C(C(CC(CCC(C)(C)F)C(NCCO)=O)O[Si](C)(C)C(C)(C)C)NC(=O)C1=NC2=CC=CC=C2N=C1 | C34H49FN4O4Si
reactant | triphenylphosphine | 0.240 mmol, 63 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hexachloroethane | 0.240 mmol, 57 mg | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | triethylamine | 0.320 mmol, 0.045 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
product | Quinoxaline-2-carboxylic Acid [1-benzyl-2-(tert-butyl-dimethyl-silanyloxy)-4-(4,5-dihydro-oxazol-2-yl)-7-fluoro-7-methyl-octyl]-amide | 72.5 mg, 75% | C(C1=CC=CC=C1)C(C(CC(CCC(C)(C)F)C=1OCCN1)O[Si](C)(C)C(C)(C)C)NC(=O)C1=NC2=CC=CC=C2N=C1 | C34H47FN4O3Si
